US09315521B2
6-amino-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidin-4-ol
A mixture of 2-(bromomethyl)-1,3,4-trichlorobenzene (580 mg, 2.1 mmol), 6-amino-2-sulfanylpyrimidin-4-ol (290 mg, 1.8 mmol), and triethylamine (280 μL, 2.0 mmol) in absolute ethanol (10 mL) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure. The solid product was suspended in water (50 mL). The solid material was recovered by filtration, washed with water (1×20 mL) and diethyl ether (2×20 mL), and dried in vacuo, affording the title compound (325 mg, 54% yield); 1H NMR (400 MHz, DMSO-d6): δ 4.64 (s, 2H), 5.03 (s, 1H), 6.57 (s (br), 2H), 7.54 (d, 1H, J=8.8 Hz), 7.64 (d, 1H, J=8.8 Hz); M+337; HPLC purity: 95.5%.

reactant | 2-(bromomethyl)-1,3,4-trichlorobenzene | 2.1 mmol, 580 mg | BrCC1=C(C=CC(=C1Cl)Cl)Cl | C7H4BrCl3
reactant | 6-amino-2-sulfanylpyrimidin-4-ol | 1.8 mmol, 290 mg | NC1=CC(=NC(=N1)S)O | C4H5N3OS
reactant | triethylamine | 2.0 mmol, 280 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidin-4-ol | 325 mg, 54% yield | NC1=CC(=NC(=N1)SCC1=C(C(=CC=C1Cl)Cl)Cl)O | C11H8Cl3N3OS
